US08461346B2
2,4-Difluoro-3-hydroxy-α-{[(1-methylimidazol-2-yl)sulfanyl]methyl}-β-[(2-methylquinolin-5-yl)amino]-α-(trifluoromethyl)benzeneethanol
Analogously to example 10 39 mg 2,4-Difluoro-α-{[(1-methylimidazol-2-yl)sulfanyl]methyl}-3-methoxy-β-[(2-methylquinolin-5-yl)amino]-α-(trifluoromethyl)-benzeneethanol in 3.5 ml dichloromethane are treated with 0.7 ml of a 1 M solution of boron tribromide in dichloromethane at −10° C. The typical work up after 22 hours at room temperature and preparative thin layer chromatography on silica gel (acetone in hexane 50%) yields 4 mg of the desired product.

reactant | 2,4-Difluoro-α-{[(1-methylimidazol-2-yl)sulfanyl]methyl}-3-methoxy-β-[(2-methylquinolin-5-yl)amino]-α-(trifluoromethyl)-benzeneethanol | FC1=C(C=CC(=C1OC)F)C(C(O)(C(F)(F)F)CSC=1N(C=CN1)C)NC1=C2C=CC(=NC2=CC=C1)C | C25H23F5N4O2S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
product | 2,4-Difluoro-3-hydroxy-α-{[(1-methylimidazol-2-yl)sulfanyl]methyl}-β-[(2-methylquinolin-5-yl)amino]-α-(trifluoromethyl)benzeneethanol | 4 mg | FC1=C(C=CC(=C1O)F)C(C(O)(C(F)(F)F)CSC=1N(C=CN1)C)NC1=C2C=CC(=NC2=CC=C1)C | C24H21F5N4O2S
